US05034064
A lactulose syrup was prepared in a manner similar to Example 1 except that the chromatography was practiced using XT-1007 (product of Tokyo Organic Chemical Industry Co., Ltd.) (crosslinking degree: 0.6%) as an ion-exchange resin. The peak of lactulose-containing fractions occurred about 123 minutes after the initiation of charging, while the peak of fractions containing monosaccharides such as galactose appeared about 167 minutes after the initiation of charging. The lactulose-containing fractions were collected and concentrated into a syrup, which had the following saccharide composition: 94.3 wt. % of lactulose and 4.2 wt. % of lactose, both based on the whole solids. The solid weight of lactulose was 201.5 kg, and its yield was 50.4% based on the starting lactose.

reactant | lactulose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O.O
reactant | galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
product | lactulose syrup | yield was 50.4% | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
